US07700655B2
(2) 4-Acetylamino-N-[3,5-bis(trifluoromethyl)phenyl]-5-chloro-2-methoxybenzamide
Using 4-acetylamino-5-chloro-2-methoxybenzoic acid and 3,5-bis(trifluoromethyl)aniline as the raw materials, the same operation as the Example 24 gave the title compound.

reactant | 4-acetylamino-5-chloro-2-methoxybenzoic acid | C(C)(=O)NC1=CC(=C(C(=O)O)C=C1Cl)OC | C10H10ClNO4
reactant | 3,5-bis(trifluoromethyl)aniline | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
product | 4-Acetylamino-N-[3,5-bis(trifluoromethyl)phenyl]-5-chloro-2-methoxybenzamide | Yield: 23.8% | C(C)(=O)NC1=CC(=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C1Cl)OC | C18H13ClF6N2O3
